US05686419
Boc-D-Phe-OH (2.66 g, 10 mole) and L-Pro-OBzl (2.42 g) were coupled using DCC, and Boc-D-Phe-Pro-OBzl was obtained in 83% yield; 1H NMR (CDCl3) δ7.34 (s, 5H), 7.23 (m, 5H), 5.4 (d, 1H), 5.15 (q, 2H), 4.65 (m, 1H), 4.35 (m, 1H), 3.5 (m, 1H), 3.1-2.9 (m, 2H), 2.6 (m, 1H), 2.-1.7 (m, 4H), 1.43 (s, 9H).

reactant | Boc-D-Phe-OH | 10 mole, 2.66 g | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | L-Pro-OBzl | 2.42 g | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C12H15NO2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Boc-D-Phe-Pro-OBzl | 83% yield | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H32N2O5
